US04999378
Sodium hydrogen carbonate (3.5 g), 4-chloroaniline (10.45 g) and DMF (50 ml) were added to methyl 4-(3-chloropropoxy)-α-methylcinnamate (11 g), and the mixture was stirred at 100° C. overnight. After the reaction mixture was allowed to cool, water (200 ml) was added thereto, and further the mixture was stirred at room temperature for 30 minutes. The insoluble product was collected by filtration, washed well with water, and was added cold methanol (20ml) thereto, and the mixture was stirred. The resulting crystal was collected by filtration to give methyl 4-[3-[N-(4chlorophenyl)amino]propoxy]-α-methylcinnamate (8 g). mp. 62°-64° C.

reactant | Sodium hydrogen carbonate | 3.5 g | C(O)([O-])=O.[Na+]
reactant | 4-chloroaniline | 10.45 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | methyl 4-(3-chloropropoxy)-α-methylcinnamate | 11 g | ClCCCOC1=CC=C(C=C(C(=O)OC)C)C=C1 | C14H17ClO3
solvent | water | 200 ml | O | H2O
product | methyl 4-[3-[N-(4chlorophenyl)amino]propoxy]-α-methylcinnamate | 8 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C=C(C(=O)OC)C)C=C1 | C20H22ClNO3
